US08629270B2
tert-Butyl-1-(benzoylcarbamothioyl)-6a-phenyl-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate
To a mixture of tert-butyl-6a-phenyl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate (1.5 g, 5.2 mmol) in tetrahydrofuran (34 mL) is added benzoyl isothiocyanate (0.84 g, 5.17 mmol). The reaction is stirred for 1 hour at room temperature, concentrated under reduced pressure, and triturated with hexane/ethyl acetate (1:1) to give title compound (1.84 g). The collected solute is purified by silica gel flash chromatography, eluting with hexane/ethyl acetate (1:0) to hexane/ethyl acetate (0:1) to give the title compound, which is combined with the triturated material (2.12 g, 90%). ES/MS (m/e): 454 (M+H).

reactant | tert-butyl-6a-phenyl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate | 5.2 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1CC2(NOCC2C1)C1=CC=CC=C1 | C16H22N2O3
reactant | benzoyl isothiocyanate | 5.17 mmol, 0.84 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | tetrahydrofuran | 34 mL | O1CCCC1 | C4H8O
product | tert-Butyl-1-(benzoylcarbamothioyl)-6a-phenyl-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate | 1.84 g | C(C)(C)(C)OC(=O)N1CC2(N(OCC2C1)C(NC(C1=CC=CC=C1)=O)=S)C1=CC=CC=C1 | C24H27N3O4S
